US04107308
8-Bromo-6-phenyl-imidazo[1,5-d]-as-triazin-4(3H)-one
A 3.0 gm. portion of 6-phenyl-imidazo[1,5-d]-as-triazin-4(3H)-one is stirred with 100 ml. of chloroform. The mixture is heated slightly and a solution of one ml. of bromine in 10 ml. of chloroform is slowly dripped into the reaction mixture. The mixture is fefluxed for 1 hour, cooled to room temperature, and filtered. To the solid is added aqueous Na2CO3 and chloroform and the mixture is shaken in a separatory funnel. The remaining solid and the organic phase are combined and evaporated on a steam bath. Methanol and 2-propanol are added and the mixture is treated twice with charcoal. Cooling gives the desired product as a solid, m.p. 192°-194° C.

reactant | 6-phenyl-imidazo[1,5-d]-as-triazin-4(3H)-one | C1(=CC=CC=C1)C1=NC=C2N1C(NN=C2)=O | C11H8N4O
reactant | bromine | BrBr | Br2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-Bromo-6-phenyl-imidazo[1,5-d]-as-triazin-4(3H)-one | BrC=1N=C(N2C(NN=CC21)=O)C2=CC=CC=C2 | C11H7BrN4O
